US08431563B2
A 500 mL round-bottomed flask was charged with 4-bromobenzenesulfonyl chloride (10.00 g, 39.1 mmol, Sigma-Aldrich, St. Louis, Mo.), 100 mL of benzene and aluminum chloride (6.26 g, 47.0 mmol). After stirring at room temperature for 12 h, the mixture was diluted water (100 mL) and extracted with EtOAc (2×100 mL). The organic extracts were dried (MgSO4) and concentrated to give 1-bromo-4-(phenylsulfonyl)benzene (10.50 g) as a white solid.

reactant | 4-bromobenzenesulfonyl chloride | 39.1 mmol, 10.00 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | benzene | 100 mL | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 47.0 mmol, 6.26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 100 mL | O | H2O
product | 1-bromo-4-(phenylsulfonyl)benzene | 10.50 g | BrC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C12H9BrO2S
